US08871767B2
N-(5-(6-chloroimidazo[1,2-b]pyridazin-2-yl)-2-ethylphenyl)pivalamide
A flask is charged with 5-(6-chloroimidazo[1,2-b]pyridazin-2-yl)-2-ethylaniline (4.00 g, 0.0146 mol), acetonitrile (120 mL) and pyridine (3.54 mL, 0.0438 mol). The mixture is stirred and trimethylacetyl chloride (1.98 mL, 0.0161 mol) is added and the mixture stirred for 16 hr at room temp. When the reaction is complete the mixture is diluted with water (500 mL) and stirred for 1 hour, and solid collected, washed with water (3×50 mL). Crude product is purified by silica gel chromatography (0-50% EtOAc in CH2Cl2) to give the title compound (4.8 g, 92%). LCMS m/z=357.5, 359.4 [M+H]+, tR=2.57 min.

reactant | 5-(6-chloroimidazo[1,2-b]pyridazin-2-yl)-2-ethylaniline | 0.0146 mol, 4.00 g | ClC=1C=CC=2N(N1)C=C(N2)C=2C=CC(=C(N)C2)CC | C14H13ClN4
reactant | acetonitrile | 120 mL | C(C)#N | C2H3N
reactant | pyridine | 0.0438 mol, 3.54 mL | N1=CC=CC=C1 | C5H5N
reactant | trimethylacetyl chloride | 0.0161 mol, 1.98 mL | CC(C(=O)Cl)(C)C | C5H9ClO
solvent | water | 500 mL | O | H2O
product | N-(5-(6-chloroimidazo[1,2-b]pyridazin-2-yl)-2-ethylphenyl)pivalamide | 4.8 g, 92% | ClC=1C=CC=2N(N1)C=C(N2)C=2C=CC(=C(C2)NC(C(C)(C)C)=O)CC | C19H21ClN4O
